US04364875
2-Chloro-3-phenoxy-6-nitro-aniline
68.3 gm of 2-chloro-4-nitro-1,3-diphenoxy-benzene were dissolved in 300 ml of toluene, and the solution was admixed with 100 ml of concentrated aqueous ammonia in an autoclave. The autoclave was then closed, the internal pressure was increased to 3 bar with gaseous ammonia, and the contents were heated for 12 hours at 120° C., whereby the internal pressure rose to about 13 bar. Thereafter, the contents were allowed to cool, and the organic phase was separated, extracted with dilute hydrochloric acid, dried with sodium sulfate and the toluene was distilled off. The reaction product was obtained with virtually quantitative yield (54 gm). Gas-chromatographic analysis revealed that the reaction product contained 98% of the title compound, m.p. 81°-82° C.

reactant | 2-chloro-4-nitro-1,3-diphenoxy-benzene | 68.3 gm | ClC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C18H12ClNO4
reactant | ammonia | 100 ml | N | H3N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-3-phenoxy-6-nitro-aniline | 98% | ClC1=C(N)C(=CC=C1OC1=CC=CC=C1)[N+](=O)[O-] | C12H9ClN2O3
